US08614234B2
A mixture of 3-(2-bromo-pyridin-4-yloxy)-benzoic acid (170 mg, 0.58 mmol), HATU (265 mg, 0.69 mmol),) m-toluidine (93 mg, 0.87 mmol) and N,N-diisopropylethylamine (164 mg, 1.28 mmol) in anhydrous DMF (10 ml) was stirred at room temperature for 20 minutes. The mixture was poured into 100 ml of water. The precipitates were filtered, washed with water and dried in vacuo to give 3-(2-Bromo-pyridin-4-yloxy)-N-m-tolyl-benzamide as off-white solid. Yield: 150 mg, 68%.

reactant | 3-(2-bromo-pyridin-4-yloxy)-benzoic acid | 0.58 mmol, 170 mg | BrC1=NC=CC(=C1)OC=1C=C(C(=O)O)C=CC1 | C12H8BrNO3
reactant | HATU | 0.69 mmol, 265 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | m-toluidine | 0.87 mmol, 93 mg | NC1=CC(=CC=C1)C | C7H9N
reactant | N,N-diisopropylethylamine | 1.28 mmol, 164 mg | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3-(2-Bromo-pyridin-4-yloxy)-N-m-tolyl-benzamide | BrC1=NC=CC(=C1)OC=1C=C(C(=O)NC=2C=C(C=CC2)C)C=CC1 | C19H15BrN2O2
